US07858621B2
To a solution of 2-methyl-6-trifluoromethylnicotinic acid (500 mg, 2.44 mmol) and N,O-dimethylhydroxylamine hydrochloride (285 mg, 2.92 mmol) in dichloromethane (10 mL) were added N-methylmorpholine (0.32 mL, 2.92 mmol) and N-(3-dimethylaminopropyl-N′-ethylcarbodiimide hydrochloride (EDC, 560 mg, 2.92 mmol). The mixture was stirred at room temperature for 2 hours and washed with 1 N HCl and water. The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure to give N-methoxy-N-methyl-2-methyl-6-trifluoromethyl-3-pyridinecarboxamide quantitatively as oil. The crude product was used directly in the following reaction.

reactant | 2-methyl-6-trifluoromethylnicotinic acid | 2.44 mmol, 500 mg | CC1=C(C(=O)O)C=CC(=N1)C(F)(F)F | C8H6F3NO2
reactant | N,O-dimethylhydroxylamine hydrochloride | 2.92 mmol, 285 mg | Cl.CNOC
reactant | N-methylmorpholine | 2.92 mmol, 0.32 mL | CN1CCOCC1 | C5H11NO
reactant | 3-dimethylaminopropyl-N′-ethylcarbodiimide hydrochloride | 2.92 mmol, 560 mg | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-methoxy-N-methyl-2-methyl-6-trifluoromethyl-3-pyridinecarboxamide | CON(C(=O)C=1C(=NC(=CC1)C(F)(F)F)C)C | C10H11F3N2O2
